US07790747B2
According to general procedure E, 4-{(S)-3-[1-(3-amino-1-methyl-propyl)-piperidin-4-yl]-4-methoxymethyl-2-oxo-imidazolidin-1-ylmethyl}-benzoic acid methyl ester (40 mg) and 6-chloro-2,4-dimethyl-nicotinic acid gave 4-[(S)-3-(1-{3-[(6-chloro-2,4-dimethyl-pyridine-3-carbonyl)-amino]-1-methyl-propyl}-piperidin-4-yl)-4-methoxymethyl-2-oxo-imidazolidin-1-ylmethyl]-benzoic acid methyl ester (32 mg, 60%).

reactant | 4-{(S)-3-[1-(3-amino-1-methyl-propyl)-piperidin-4-yl]-4-methoxymethyl-2-oxo-imidazolidin-1-ylmethyl}-benzoic acid methyl ester | 40 mg | COC(C1=CC=C(C=C1)CN1C(N([C@@H](C1)COC)C1CCN(CC1)C(CCN)C)=O)=O | C23H36N4O4
reactant | 6-chloro-2,4-dimethyl-nicotinic acid | ClC1=NC(=C(C(=O)O)C(=C1)C)C | C8H8ClNO2
product | 4-[(S)-3-(1-{3-[(6-chloro-2,4-dimethyl-pyridine-3-carbonyl)-amino]-1-methyl-propyl}-piperidin-4-yl)-4-methoxymethyl-2-oxo-imidazolidin-1-ylmethyl]-benzoic acid methyl ester | 32 mg, 60% | COC(C1=CC=C(C=C1)CN1C(N([C@@H](C1)COC)C1CCN(CC1)C(CCNC(=O)C=1C(=NC(=CC1C)Cl)C)C)=O)=O | C31H42ClN5O5
